US06875769B2
5-(1-Ethyl-propoxy)-7-methyl-1-(2,4,6-trimethyl-phenyl)-1,2,3,4-tetrahydro-[1,8]naphthyridine
The title compound was prepared in a 86% yield as a clear oil by the method analogous to that described in Example 8 starting from 5-(1-ethyl-propoxy)-7-methyl-1-(2,4,6-trimethyl-phenyl)-3,4-dihydro-1H-[1,8]naphthyridin-2-one and BH3.DMS in THF.

reactant | 5-(1-ethyl-propoxy)-7-methyl-1-(2,4,6-trimethyl-phenyl)-3,4-dihydro-1H-[1,8]naphthyridin-2-one | C(C)C(CC)OC1=C2CCC(N(C2=NC(=C1)C)C1=C(C=C(C=C1C)C)C)=O | C23H30N2O2
reactant | DMS | CSC | C2H6S
solvent | THF | C1CCOC1 | C4H8O
product | 5-(1-Ethyl-propoxy)-7-methyl-1-(2,4,6-trimethyl-phenyl)-1,2,3,4-tetrahydro-[1,8]naphthyridine | 86% yield | C(C)C(CC)OC1=C2CCCN(C2=NC(=C1)C)C1=C(C=C(C=C1C)C)C | C23H32N2O
